US07368476B2
Synthesis of 4-[2-(4-azetidin-1-yl-3-benzofuran-2-yl-but-2-enoylamino)ethoxy]-N-hydroxybenzamide hydrochloride
To a solution of 4-[2-(4-azetidin-1-yl-3-benzofuran-2-yl-but-2-enoylamino)ethoxy]-benzoic acid methyl ester (158 mg, 0.362 mmol) in THF (4 ml), a solution of hydroxylamine in 50% water (2.78 ml) and 1N NaOH (0.1 ml) were added. Methanol was added dropwise until a homogeneous solution was obtained. The reaction mixture was stirred overnight at rt. After cooling the mixture at 0° C., 6 N HCl was added until pH 7 was reached. The solid was separated by filtration and the crude solid purified by HPLC to give the title compound (25 mg) as a white solid.

reactant | 4-[2-(4-azetidin-1-yl-3-benzofuran-2-yl-but-2-enoylamino)ethoxy]-benzoic acid methyl ester | 0.362 mmol, 158 mg | COC(C1=CC=C(C=C1)OCCN(C(C=CC)=O)C1=CC2=C(O1)C=CC=C2N2CCC2)=O | C25H26N2O5
reactant | hydroxylamine | NO | H3NO
reactant | Methanol | CO | CH4O
reactant | HCl | 6 N | Cl | ClH
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 2.78 ml | O | H2O
solvent | NaOH | 1N, 0.1 ml | [OH-].[Na+]
product | 4-[2-(4-azetidin-1-yl-3-benzofuran-2-yl-but-2-enoylamino)ethoxy]-N-hydroxybenzamide hydrochloride | 25 mg | Cl.N1(CCC1)C1=CC=CC=2OC(=CC21)N(CCOC2=CC=C(C(=O)NO)C=C2)C(C=CC)=O | InChI=1S/C24H25N3O5.ClH/c1-2-5-22(28)27(14-15-31-18-10-8-17(9-11-18)24(29)25-30)23-16-19-20(26-12-4-13-26)6-3-7-21(19)32-23;/h2-3,5-11,16,30H,4,12-15H2,1H3,(H,25,29);1H
